US06964979B2
5-Cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid
To a solution of 5-cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester (404 mg, 1.13 mmol) in THF/MeOH (2.5 mL/5 mL) was added 1 N NaOH (2.26 mL, 2.26 mmol). The reaction mixture was stirred at ambient temperature overnight. Most of THF/MeOH was removed under reduced pressure and the resulting mixture was acidified with 1 N HCl. The mixture was extracted with EtOAc (3×10 mL). The combined organic phase was washed with brine (20 mL), dried over Na2SO4 and concentrated to provide 341 mg (91%) of title compound as a white solid. 1H NMR (DMSO): 300 MHz δ 12.02 (bs, 1H), 11.33 (bs, 1H), 7.00 (d, J=9.00 Hz, 1H), 3.96 (m, 2H), 2.95 (d, J=10.3 Hz, 1H), 2.83 (t, J=3.9 Hz, 1H), 2.72 (d, J=10.3 Hz, 1H), 2.54 (s, 3H), 1.99 (m, 2H), 1.28 (m, 1H), 0.85 (m, 1H), 0.79 (t, J=5.41 Hz, 3H).

reactant | 5-cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester | 1.13 mmol, 404 mg | C(C)OC(CC1(OCCC2=C1NC1=C(C=C(C(=C21)C#N)F)C)CCC)=O | C20H23FN2O3
reactant | NaOH | 2.26 mmol, 1 N, 2.26 mL | [OH-].[Na+]
solvent | THF MeOH | 2.5 mL | C1CCOC1.CO
product | 5-Cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid | 341 mg, 91% | C(#N)C1=C2C3=C(NC2=C(C=C1F)C)C(OCC3)(CC(=O)O)CCC | C18H19FN2O3
